US04996201
Methyl[4-(1-azetidinyl]-2-butynyl]methyl-carbamate
A solution of methyl[4-(diethylamino)-2-butynyl]- methyl-carbamate (4.2 g, 0.02 mol) (Example 1i) in anhydrous diethyl ether (50 ml) is added dropwise at room temperature to a stirred solution of cyanogen bromide in anhydrous diethyl ether (40 ml). The mixture is allowed to stand for 12 hours and the diethyl ether layer is separated, washed with water (40 ml), dried over magnesium sulfate, and concentrated. The resulting oil is then purified by bulb to bulb distillation under high vacuum to give methyl N-(4-bromo-2-butynyl)-N-methylcarbamate as a ight yellow oil. Azetidine (2 g, 0.032 mol) is added to a stirred solution of methyl N-(4-bromo-2-butynyl)-N-methylcarbamate (3.6 g, 0.016 mol). The mixture is kept at room temperature for one hour and then filtered. The filtrate is concentrated and the resulting oil purified by bulb to bulb distillation under high vacuum to give a light yellow oil. NMR(CDCl3): 4.10 (brs, 2H); 3.7 (s, 3H); 3.39 (brs, 2H); 2.94 (s, 3H); 2.45 (brs, 4H).

reactant | Azetidine | 0.032 mol, 2 g | N1CCC1 | C3H7N
reactant | methyl N-(4-bromo-2-butynyl)-N-methylcarbamate | 0.016 mol, 3.6 g | BrCC#CCN(C(OC)=O)C | C7H10BrNO2
product | Methyl[4-(1-azetidinyl]-2-butynyl]methyl-carbamate | COC(N(C)CC#CCN1CCC1)=O | C10H16N2O2
